US07612099B2
(R)-3-[(3,5-Dimethyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one
Using general procedure D, (R)-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one (prepared according to Lit. 11, see also Lit. 19) was reacted with benzaldehyde and 3,5-dimethyl-1H-indole (Lit. 21) to give the title compound as a yellow foam. MS: 423.3 ([M+H]+).

reactant | (R)-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one | OC1=CC(N[C@@]1(C1=CC=CC=C1)C)=O | C11H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3,5-dimethyl-1H-indole | CC1=CNC2=CC=C(C=C12)C | C10H11N
product | (R)-3-[(3,5-Dimethyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one | CC1=C(NC2=CC=C(C=C12)C)C(C=1C(N[C@@](C1O)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C28H26N2O2
